US05254571
3-Cyano-6-(2-cyclopropylmethoxyphenyl)-2(1H)-pyridinone
A stirred mixture of 2-(cyclopropylmethoxy)-acetophenone (15 g), dimethylformamide (45 ml) and dimethylformamide dimethylacetal (12.75 ml) was heated at 140° C. for 25 hours, then cyanoacetamide (8.29 g) was added and the mixture was heated for a further 18 hours. The cool mixture was added to water (200 ml) and diethyl ether (100 ml) and the solid was collected by filtration, washed with water then with ethanol. Digestion with acetonitrile give the title compound, 6.1 g, m.p. 250°-252° C. (from acetonitrile).

reactant | 2-(cyclopropylmethoxy)-acetophenone | 15 g | C1(CC1)COCC(=O)C1=CC=CC=C1 | C12H14O2
reactant | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide dimethylacetal | 12.75 ml | COC(N(C)C)OC | C5H13NO2
reactant | cyanoacetamide | 8.29 g | C(#N)CC(=O)N | C3H4N2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 3-Cyano-6-(2-cyclopropylmethoxyphenyl)-2(1H)-pyridinone | C(#N)C=1C(NC(=CC1)C1=C(C=CC=C1)OCC1CC1)=O | C16H14N2O2
